* \\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\            
* LM13700 Dual Operational Transconductance Amplifier                 
* \\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\\                 
*
*                   Amplifier Bias Input
*                   | Diode Bias
*                   | | Positive Input
*                   | | | Negative Input
*                   | | | | Output
*                   | | | | | Negative power supply
*                   | | | | | | Buffer Input
*                   | | | | | | | Buffer Output
*                   | | | | | | | | Positive power supply
*                   | | | | | | | | |
.SUBCKT LM13700     1 2 3 4 5 6 7 8 11
*
* Features:
* gm adjustable over 6 decades.
* Excellent gm linearity.
* Linearizing diodes.
* Wide supply range of +/-2V to +/-22V.
*
* Note:  This model is single-pole in nature and over-estimates
*       AC bandwidth and phase margin (stability) by over 2X.   
*       Although refinement may be possible in the future, please
*       use benchtesting to finalize AC circuit design.
* 
* Note: Model is for single device only and simulated
*       supply current is 1/2 of total device current.
*
******************************************************
* 
C1  6  4  4.8P
C2  3  6  4.8P
* Output capacitor  
C3  5  6  6.26P                                       
D1  2  4  DX
D2  2  3  DX
D3  11 21 DX
D4  21 22 DX
D5  1  26 DX
D6  26 27 DX
D7  5  29 DX
D8  28 5  DX
D10 31 25 DX
* Clamp for -CMR  
D11 28 25 DX                                        
* Ios source 
F1  4  3  POLY(1)   V6 1E-10 5.129E-2 -1.189E4 1.123E9 
F2  11 5  V2        1.022
F3  25 6  V3        1.0
F4  5  6  V1        1.022
* Output impedance 
F5  5  0  POLY(2)   V3 V7 0 0 0 0 1                  
G1  0  33 5         0 .55E-3
I1  11 6  300U
Q1  24 32 31        QX1
Q2  23 3  31        QX2
Q3  11 7  30        QZ
Q4  11 30 8         QY
V1  22 24 0V
V2  22 23 0V
V3  27 6  0V
V4  11 29 1.4
V5  28 6  1.2
V6  4  32 0V
V7  33 0  0V
.MODEL QX1 NPN (IS=5E-16     BF=200 NE=1.15 ISE=.63E-16 IKF=1E-2)
.MODEL QX2 NPN (IS=5.125E-16 BF=200 NE=1.15 ISE=.63E-16 IKF=1E-2)
.MODEL QY  NPN (IS=6E-15     BF=50)
.MODEL QZ  NPN (IS=5E-16     BF=266)  
.MODEL DX  D   (IS=5E-16)
.ENDS
*$

.SUBCKT LM13700_IMPL ABI1 DB1 PI1 NI1 OUT1 VEE BI1 BO1 BO2 BI2 VCC OUT2 NI2 PI2 DB2 ABI2
XU1 ABI1 DB1 PI1 NI1 OUT1 VEE BI1 BO1 VCC LM13700
XU2 ABI2 DB2 PI2 NI2 OUT2 VEE BI2 BO2 VCC LM13700
.ENDS

